US07557103B2
A. 3-Bromo-thieno[2,3-b]pyridine
2.30 g of Thieno[2,3-b]pyridine (17 mmol), 1.43 g of NaHCO3 (17 mmol), 4.44 g of K2HPO4 (25.5 mmol) and 2.66 g of MgSO4 (22.1 mmol) are placed into the flask with 80 ml of dichloromethane. The reaction mixture is stirred under reflux. 1.05 ml of bromine (20.4 mmol) is added slowly to the mixture and is stirred overnight. CH2Cl2 and water are added to the cooled reaction mixture and separated. The CH2Cl2 layer is dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane: AcOEt=3:1) to give 1.76 g of the title compound. Yield 48%. mass spectrum (m/e): 215 (M+1); 1H-NMR (CDCl3): 8.67 (m, 1H), 8.13 (m, 1H), 7.59 (s, 1H), 7.45 (m, 1H) ppm.

reactant | Thieno[2,3-b]pyridine | 17 mmol, 2.30 g | S1C=CC=2C1=NC=CC2 | C7H5NS
reactant | NaHCO3 | 17 mmol, 1.43 g | C(=O)(O)[O-].[Na+]
reactant | K2HPO4 | 25.5 mmol, 4.44 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | MgSO4 | 22.1 mmol, 2.66 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | bromine | 20.4 mmol, 1.05 ml | BrBr | Br2
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-Bromo-thieno[2,3-b]pyridine | 1.76 g, Yield 48% | BrC1=CSC2=NC=CC=C21 | C7H4BrNS
